US07420083B2
Synthesis of 4-{2-[({[4-(tert-Butyl)phenyl]methylidene}amino)oxy]ethoxy}-2-hydroxybenzoic Acid
The title compound was prepared as a white solid (3.056 g, 76%) from 4-(2-bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester and 4-tert-butyl-benzaldehyde oxime using a procedure similar to that of step 1 of example 6. mp=161.4-162.7° C.; mass spectrum (+APCI, M+H) m/z 358. 1H NMR (400 MHz, DMSO-d6); δ 13.60 (bs, 1H), 11.50 (bs, 1H), 8.24 (s, 1H), 7.68 (d, 1H), 7.54 (d, 2H), 7.42 (d, 2H), 6.52 (m, 2H), 4.40 (t, 2H), 4.29 (t, 2H), 1.38 (s, 9H). Elemental analysis: Calcd. for C20H23NO5: C, 67.21; H, 6.49; N, 3.92, Found: C, 66.86; H, 6.42; N, 3.88.

reactant | 4-(2-bromo-ethoxy)-2-hydroxy-benzoic acid methyl ester | COC(C1=C(C=C(C=C1)OCCBr)O)=O | C10H11BrO4
reactant | 4-tert-butyl-benzaldehyde oxime | C(C)(C)(C)C1=CC=C(C=NO)C=C1 | C11H15NO
product | 4-{2-[({[4-(tert-Butyl)phenyl]methylidene}amino)oxy]ethoxy}-2-hydroxybenzoic Acid | C(C)(C)(C)C1=CC=C(C=C1)C=NOCCOC1=CC(=C(C(=O)O)C=C1)O | C20H23NO5
